US08071592B2
(e) 2-[(E)-2-Phenylethenyl]-1H-pyrimido[5,4-b][1,4]oxazin-7(6H)-one
To a suspension of 4-amino-2-[(E)-2-phenylethenyl]-5-pyrimidinol hydrochloride (250 mg, 1.0 mmol) in absolute ethanol (5 mL) was added potassium tert-butoxide (224 mg, 2.0 mmol) at room temperature. After stirring for 5 minutes, ethyl bromoacetate (0.11 mL, 1.0 mmol) was added via dropwise addition and the reaction was stirred for 18 h. The solvent was evaporated and the residue was taken up in 10% MeOH—CHCl3 and a small amount of water. The layers were separated and the aqueous phase was extracted with 10% MeOH—CHCl3 (3×). The combined organic extracts were concentrated and the resulting solid was triterated with EtOAc. The white solid was collected by filtration, yielding 106 mg (42%).

reactant | 4-amino-2-[(E)-2-phenylethenyl]-5-pyrimidinol hydrochloride | 1.0 mmol, 250 mg | Cl.NC1=NC(=NC=C1O)\C=C\C1=CC=CC=C1
reactant | potassium tert-butoxide | 2.0 mmol, 224 mg | CC(C)([O-])C.[K+]
reactant | ethyl bromoacetate | 1.0 mmol, 0.11 mL | BrCC(=O)OCC | C4H7BrO2
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-[(E)-2-Phenylethenyl]-1H-pyrimido[5,4-b][1,4]oxazin-7(6H)-one | C1(=CC=CC=C1)/C=C/C1=NC=C2OCC(N=C2N1)=O | C14H11N3O2
